US07018685B2
The etherification of 9 mmol of 7-butoxy-1,8-difluorofluoren-2-ol with 12 mmol of 1-bromopropane and 27 mmol of potassium carbonate in 50 ml of acetone is effected in a similar manner to the procedure described in Example 1. Purification of the crude product by chromatography on silica gel (dichloromethane/heptane) and recrystallization from heptane provides 2-butoxy-1,8-difluoro-7-propyloxyfluorene.

reactant | 7-butoxy-1,8-difluorofluoren-2-ol | 9 mmol | C(CCC)OC1=CC=C2C=3C=CC(=C(C3CC2=C1F)F)O | C17H16F2O2
reactant | 1-bromopropane | 12 mmol | BrCCC | C3H7Br
reactant | potassium carbonate | 27 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-butoxy-1,8-difluoro-7-propyloxyfluorene | C(CCC)OC1=C(C=2CC3=C(C(=CC=C3C2C=C1)OCCC)F)F | C20H22F2O2
